* C:\Users\Levovo20x\Documents\GitHub\EE463-Hardware-Project\buck converter trial\buck converter- analog control - ACS712 model - No3Phasemodel.asc
M1 N009 pwm_signal 0 0 IRFZ46N
D1 N009 N003 D
L1 N003 N004 10µH
V3 N008 N009 12
R1 N005 N008 0.1
R4 N005 N004 0.1
V13 5V 0 10V
V1 N007 0 PULSE(0 5 0 0 0 6.66us 13.33us)
R2 triangle_wave N007 660
C1 triangle_wave 0 10nF
XU1 duty_reference triangle_wave 5V 0 pwm_signal AD820
XU3 ACS712_VOUT current_limit_reference 5V 0 decrease_duty AD820
V6 current_limit_reference 0 3.3
Q1 N002 N006 0 0 NPN
C3 duty_reference 0 10µF
R9 5V duty_reference 8.6k
R8 N006 decrease_duty 300k
C4 N005 N009 2200µF
B1 ACS712_VOUT 0 V=2.5+0.083*I(R1)
V4 N003 0 PWL(0 12 25ms 35)
R3 duty_reference N002 2.3k
D2 0 duty_reference 1N750
R5 duty_reference 0 8.6k
.model D D
.lib C:\Users\Levovo20x\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Levovo20x\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Levovo20x\Documents\LTspiceXVII\lib\cmp\standard.mos
* 75kHz square wave
* ACS712 MODEL
* You may add low pass filter since\n this sensor has a bandwith of 50kHz
.tran 25ms
.lib ADI1.lib
.backanno
.end
